US09079866B2
2-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-5-amine hydrochloride
The title compound was prepared using analogous conditions to those described in Example 213 utilizing 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol and 5-amino-2-chloropyrimidine. MS (ESI): mass calcd. for C20H15FN6S, 390.11; m/z found, 391.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.36 (s, 1H), 8.24 (s, 1H), 7.95 (s, 2H), 7.88 (m, 1H), 7.65-7.59 (m, 1H), 7.53-7.38 (m, 3H), 7.27-7.16 (m, 2H).

reactant | 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S)F | C16H12FN3S
reactant | 5-amino-2-chloropyrimidine | NC=1C=NC(=NC1)Cl | C4H4ClN3
product | 2-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-5-amine hydrochloride | Cl.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)SC1=NC=C(C=N1)N)F | InChI=1S/C20H15FN6S.ClH/c21-16-7-12(5-6-15(16)17-10-25-19(23)11-24-17)14-3-1-2-4-18(14)28-20-26-8-13(22)9-27-20;/h1-11H,22H2,(H2,23,25);1H
